US06482848B2
Synthesis of (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one (14)
Pyrrolidine (450 mg, 6.3 mmol) was added to a stirred solution of aqueous formaldehyde (500 mg of 38% solution, 6.0 mmol) and 3-(3,5-dimethyl-1H-pyrrol-2-ylmethylidene)-1,3-dihydro-indol-2-one, (900 mg, 3.8 mmol) in methanol (50 mL). After 15 min, the solution was cooled to 0° C. and the precipitate was filtered off, washed with water, and dried to give 1.08 g of the title compound, mp 129-132° C. HPLC Rt 4.87 min. 1H NMR [(CD3)2SO] δ1.65 (m, 4H), 2.32 9s, 3H), 2.34 (s, 3H), 2.62 (m, 4H). 4.72 (s, 2H) 6.07 (d, 1H), 7.00 (m, 1H), 7.15 (m, 2H), 7.61 (s, 1H), 7.76 (d, 2H) and 13.1 (br s, 1H). Anal. Calcd for C20H23N3O: C, 74.74; H, 7.21; N, 13.07. Found: C, 74.61; H, 7.25; N, 13.03.

reactant | Pyrrolidine | 6.3 mmol, 450 mg | N1CCCC1 | C4H9N
reactant | formaldehyde | 6.0 mmol, 500 mg | C=O | CH2O
reactant | 3-(3,5-dimethyl-1H-pyrrol-2-ylmethylidene)-1,3-dihydro-indol-2-one | 3.8 mmol, 900 mg | CC1=C(NC(=C1)C)C=C1C(NC2=CC=CC=C12)=O | C15H14N2O
solvent | methanol | 50 mL | CO | CH4O
product | (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one | 1.08 g | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)CN1CCCC1)=O | C20H23N3O
